US03984397
A solution of 2-methyl-2,3-methylene-6-(1-cyclopropylethoxy)carbonylaminopenam-3-carboxylic acid(840 mg.) in formic acid(5 ml.) was stirred for 1.5 hours at room temperature. After the reaction, formic acid was distilled off under reduced pressure. The residue was washed with ether, crystallized by adding acetonitrile containing water and the crystals were collected by filtration to give 2-methyl-2,3-methylene-6-aminopenam-3-carboxylic acid(380 mg.), mp. 200°C (dec.).

reactant | 2-methyl-2,3-methylene-6-(1-cyclopropylethoxy)carbonylaminopenam-3-carboxylic acid | 840 mg | CC12S[C@H]3N(C1(C(=O)O)C2)C(C3NC(=O)OC(C)C3CC3)=O | C14H18N2O5S
solvent | formic acid | 5 ml | C(=O)O | CH2O2
product | 2-methyl-2,3-methylene-6-aminopenam-3-carboxylic acid | 380 mg | CC12S[C@H]3N(C1(C(=O)O)C2)C(C3N)=O | C8H10N2O3S
